US08048909B2
tert-Butyl {[1-({3-[(dimethylamino)carbonyl]phenyl}sulfonyl)-5-phenyl-1H-pyrrol-3-yl]methyl}methylcarbamate
To a suspension (3 mL) of sodium hydride (60% in oil, 36 mg) in tetrahydrofuran was added a solution (2 mL) of tert-butyl methyl{[1-({3-[(methylamino)carbonyl]phenyl}sulfonyl)-5-phenyl-1H-pyrrol-3-yl]methyl}carbamate (240 mg) in N,N-dimethylformamide at room temperature. After stirring at the same temperature for 15 min, iodomethane (106 mg) was added, and the mixture was stirred for 30 min. Water was added to the reaction mixture, and the mixture was extracted with ethyl acetate. The extract was washed with saturated brine, dried over anhydrous sodium sulfate, and concentrated under reduced pressure. The residue was purified by silica gel column chromatography (eluent: hexane-ethyl acetate=4:1→1:1) to give the title compound as a colorless oil (yield 168 mg, 68%).

reactant | sodium hydride | 3 mL, 36 mg | [H-].[Na+]
reactant | tert-butyl methyl{[1-({3-[(methylamino)carbonyl]phenyl}sulfonyl)-5-phenyl-1H-pyrrol-3-yl]methyl}carbamate | 2 mL, 240 mg | CN(C(OC(C)(C)C)=O)CC1=CN(C(=C1)C1=CC=CC=C1)S(=O)(=O)C1=CC(=CC=C1)C(=O)NC | C25H29N3O5S
reactant | iodomethane | 106 mg | IC | CH3I
reactant | Water | O | H2O
solvent | tetrahydrofuran | O1CCCC1 | C4H8O
solvent | N,N-dimethylformamide | CN(C=O)C | C3H7NO
product | tert-Butyl {[1-({3-[(dimethylamino)carbonyl]phenyl}sulfonyl)-5-phenyl-1H-pyrrol-3-yl]methyl}methylcarbamate | yield 168 mg, 68% | CN(C(=O)C=1C=C(C=CC1)S(=O)(=O)N1C=C(C=C1C1=CC=CC=C1)CN(C(OC(C)(C)C)=O)C)C | C26H31N3O5S
